US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(3-chloro-4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXXVII)
In a similar fashion to Compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (100.00 mg, 0.34042 mmol), 3-Chloro-4-morpholin-4-yl-benzaldehyde (84.5 mg, 0.374 mmol), and Ammonium acetate (52.5 mg, 0.681 mmol) were reacted to produce 62.66 mg (37%) of the title compound. (300 MHz, DMSO-d6) 13.35 (s, 1H), 8.28 (d, J=5 Hz, 1H), 8.01 (s, 1H), 7.78 (s, 1H), 7.52 (m, 1H), 7.38 (m, 2H), 7.25 (s, 1H), 6.38 (m, 2H), 5.14 (t, J=16 Hz, 8 Hz, 1H), 3.76 (m, 4H), 3.54 (s, 4H), 2.91 (s, 1H), 2.81 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.22 (d, J=9 Hz, 1H), 1.39 (d, J=9 Hz, 1H). MS=466 (M-Cl+), HPLC: 1.76 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.34042 mmol, 100.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 3-Chloro-4-morpholin-4-yl-benzaldehyde | 0.374 mmol, 84.5 mg | ClC=1C=C(C=O)C=CC1N1CCOCC1 | C11H12ClNO2
reactant | Ammonium acetate | 0.681 mmol, 52.5 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(3-chloro-4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 62.66 mg, 37% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=C(C=C2)N2CCOCC2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C24H24Cl2N6O2
